US08039472B2
To a stirred solution of (R)-2-Amino-5-(4-hydroxy-phenyl)-pentanoic acid amide (5 g, 24.01 mmol) in THF (250 ml) is added imidazole (4.90 g, 72 mmol), followed by tert-butyldimethylchlorosilane (3.98 g, 26.4 mmol). The resulting solution is heated at 70° C. for 4 hours and then allowed to cool to room temperature. Dilution with Et2O (200 ml) washing with water (2×100 ml) and brine (100 ml), drying MgSO4, and concentration in vacuo yields (R)-2-Amino-5-[4-(tert-butyl-dimethyl-silanyloxy)-phenyl]-pentanoic acid amide; [M+H]+ 323

reactant | (R)-2-Amino-5-(4-hydroxy-phenyl)-pentanoic acid amide | 24.01 mmol, 5 g | N[C@@H](C(=O)N)CCCC1=CC=C(C=C1)O | C11H16N2O2
reactant | imidazole | 72 mmol, 4.90 g | N1C=NC=C1 | C3H4N2
reactant | tert-butyldimethylchlorosilane | 26.4 mmol, 3.98 g | C(C)(C)(C)[Si](Cl)(C)C | C6H15ClSi
solvent | THF | 250 ml | C1CCOC1 | C4H8O
product | (R)-2-Amino-5-[4-(tert-butyl-dimethyl-silanyloxy)-phenyl]-pentanoic acid amide | N[C@@H](C(=O)N)CCCC1=CC=C(C=C1)O[Si](C)(C)C(C)(C)C | C17H30N2O2Si
